US06828460B2
cis-N-[4-(2,4-Dihydroxyphenyl)cyclohexyl]-1-butanesulfonamide
To a round bottomed flask equipped with magnetic stirrer charged with cis-4-(2,4-bis{[tert-butyl(dimethyl)silyl]oxy}phenyl)cyclohexylamine (150 mg, 0.34 mmol) and 1,2-dichloroethane (8 ml), was added triethylamine (96 μl, 0.70 mmol) and n-butylsulfonyl chloride (55 μl, 0.40 mmol) at room temperature. 4-Dimethylaminopyridine (3 crystals) was added and the mixture stirred for 17 hr. Aqueous sodium hydroxide solution (15 ml, 0.40M) was added and the mixture stirred for 10 min. The layers were partitioned and the aqueous layer was extracted with dichloromethane (15 ml). The combined organic layers were washed with brine (15 ml), dried over magnesium sulfate, filtered and concentrated in vacuo. The resulting solid was then dissolved in tetrahydrofuran (10 ml) and acetic acid (0.15 ml), then tetra-n-butylammonium fluoride hydrate (360 mg, 1.4 mmol) was added. The mixture was stirred at room temperature for 1 hr, then ethyl acetate (10 ml) and water (15 ml) were added. The layers were partitioned and the aqueous layer was extracted with ethyl acetate (10 ml). The combined organic layers were washed with brine (10 ml), dried over magnesium sulfate, filtered and concentrated in vacuo to leave an oil. Purification via flash column chromatography (SiO2, ethyl acetate/petroleum ether, 1:10 then 1:1, v/v) furnished the title compound (40 mg, 35%) as a white solid. m/z (ES−) 326 (M−H+); δH(CD3OD) 0.95 (3H, t), 1.45-1.55 (2H, m), 1.55-1.95 (10H, m), 2.80-2.90 (1H, m), 3.00-3.20 (2H, m), 3.65 (1H, m), 6.22-6.26 (2H, m), 6.96 (1H, d).

reactant | cis-4-(2,4-bis{[tert-butyl(dimethyl)silyl]oxy}phenyl)cyclohexylamine | 0.34 mmol, 150 mg | [Si](C)(C)(C(C)(C)C)OC1=C(C=CC(=C1)O[Si](C)(C)C(C)(C)C)[C@H]1CC[C@H](CC1)N | C24H45NO2Si2
reactant | triethylamine | 0.70 mmol, 96 μl | C(C)N(CC)CC | C6H15N
reactant | n-butylsulfonyl chloride | 0.40 mmol, 55 μl | C(CCC)S(=O)(=O)Cl | C4H9ClO2S
reactant | sodium hydroxide | 0.40M, 15 ml | [OH-].[Na+]
reactant | tetra-n-butylammonium fluoride hydrate | 1.4 mmol, 360 mg | O.[F-].C(CCC)[N+](CCCC)(CCCC)CCCC
catalyst | 4-Dimethylaminopyridine | CN(C1=CC=NC=C1)C | C7H10N2
solvent | acetic acid | 0.15 ml | C(C)(=O)O | C2H4O2
solvent | water | 15 ml | O | H2O
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
solvent | 1,2-dichloroethane | 8 ml | ClCCCl | C2H4Cl2
product | cis-N-[4-(2,4-Dihydroxyphenyl)cyclohexyl]-1-butanesulfonamide | 40 mg, 35% | OC1=C(C=CC(=C1)O)[C@H]1CC[C@H](CC1)NS(=O)(=O)CCCC | C16H25NO4S
